data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202200597.json
{"doi": "10.1002_adsc.202200597", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical anodic oxyselenation of N-acyl allylamines with diaryl diselenides via anchimeric-assisted acyl migration to give β-acyloxy-γ-selenyl amides and selenyl carbamates (oxazolidinones).", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of PhSeSePh (diphenyl diselenide) to generate electrophilic PhSe+ (with H2 evolution at the Pt cathode); PhSe+ acts as the active selenating electrophile on the alkene.", "key_intermediates": [{"name": "electrophilic PhSe+ (phenylselenenyl cation) generated at anode", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "seleniranium ion (Int. A) from PhSe+ addition to allylamine alkene", "smiles": null, "role": "reactive"}, {"name": "5-exo cyclized oxocarbenium / 1,3-dioxolan-2-ylium-type intermediate from anchimeric assistance of acyl carbonyl oxygen (Int. B)", "smiles": null, "role": "reactive"}, {"name": "hemiorthoester-type intermediate after water addition (Int. C)", "smiles": null, "role": "transient"}, {"name": "Int. C1 (R = Ph or alkyl acyl) leading to acyl-migration product 6 via loss of NTs", "smiles": null, "role": "transient"}, {"name": "Int. C2 (R = tBuO or BnO) leading to oxazolidinone 7 via loss of tBuOH/BnOH", "smiles": null, "role": "transient"}], "electron_flow": "The graphite anode oxidizes PhSeSePh to PhSe+ (with PhSe• as a transient species recombining to PhSe+), while protons are reduced to H2 at the Pt cathode. PhSe+ electrophilically adds to the allylamine alkene to form a seleniranium ion, which is opened by intramolecular anchimeric attack of the N-acyl carbonyl oxygen; nucleophilic addition of water and subsequent fragmentation deliver either an acyl-migration product (6) or a cyclic carbamate (7).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Standard reaction with 3 equiv TEMPO still gave 6a in 71% yield, indicating a non-radical (cationic) pathway."}, {"name": "Crossover substrates 4c (p-OMe-benzoyl) and 4o (p-CF3-benzoyl)", "smiles": null, "purpose": "crossover", "observation": "No crossover products observed (only 6c 87% and 6o 91%), indicating intramolecular acyl migration."}, {"name": "H2 18O (isotope-labeled water)", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Product 6a' incorporated 18O at the carbonyl oxygen (96% yield, detected by NMR), supporting water-promoted acyl migration through an orthoester-like intermediate."}, {"name": "Regiochemical probe substrates (cinnamyl/internal alkene variants)", "smiles": null, "purpose": "other", "observation": "Regioselectivity controlled by both Markovnikov's rule and Baldwin's 5-endo over 6-exo rule; when in conflict, Baldwin's rule dominates (6z10:6z11 = 1:2)."}, {"name": "N-acetyl-N-benzoyl allylamine", "smiles": null, "purpose": "other", "observation": "Only benzoyl migration product 6z12 obtained (30%), with acetate migration only in trace; chemoselectivity attributed to greater nucleophilicity of benzoyl carbonyl oxygen."}, {"name": "Cyclohex-2-en-1-amine derivative", "smiles": null, "purpose": "other", "observation": "Highly diastereoselective anti-oxyselenation product 6z13 obtained (84%, dr > 20:1); consistent with seleniranium opening via half-chair transition state."}, {"name": "Cyclic voltammetry of PhSeSePh and substrates", "smiles": null, "purpose": "redox_probe", "observation": "Supports anodic oxidation of PhSeSePh as the initial electron-transfer event (see SI)."}], "evidence_types_used": ["intermediate_trap_TEMPO", "crossover", "H/D_labeling", "product_isotope_distribution", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "A radical pathway (PhSe• addition) is explicitly ruled out by TEMPO compatibility; the authors favor a cationic seleniranium/anchimeric-assistance mechanism. Divergence between acyl-migration products (6, when R = aryl/alkyl acyl) and cyclic carbamate products (7, when R = OtBu or OBn) is rationalized by which leaving group (NTs vs. alkoxide as ROH) is thermodynamically more favorable from intermediate C. The product distribution (6 vs 7) and regioselectivity in unsymmetrical alkenes is jointly governed by Markovnikov and Baldwin 5-endo > 6-exo preferences, with Baldwin dominating when they conflict."}
